US07902375B2
Step 2: [2-(5-Methyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamic acid tert-butyl ester
Iodine (0.261 g, 1.028 mmol) is added to a stirred solution of polymer supported triphenylphosphine (3 mmol/g, 0.34 g, 1.03 mmol) in DCM (10 ml). After stirring for 10 min at room temperature triethylamine (0.287 ml, 2.06 mmol) and [3-(N′-acetyl-hydrazino)-3-oxo-propyl]-carbamic acid tert-butyl ester (0.126 g, 0.514 mmol) are added. The reaction is stirred at room temperature for 18 h then filtered through a Celite™ filter material plug, washing with DCM. The solvent is removed and the residue is purified by chromatography on silica, eluting with EtOAc, to afford the titled compound.

reactant | Iodine | 1.028 mmol, 0.261 g | II | I2
reactant | triphenylphosphine | 1.03 mmol, 0.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.06 mmol, 0.287 ml | C(C)N(CC)CC | C6H15N
reactant | [3-(N′-acetyl-hydrazino)-3-oxo-propyl]-carbamic acid tert-butyl ester | 0.514 mmol, 0.126 g | C(C)(C)(C)OC(NCCC(=O)NNC(C)=O)=O | C10H19N3O4
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | [2-(5-Methyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC=1OC(=NN1)C)=O | C10H17N3O3
